US06528504B2
(R)-5,11-Dihydro-5-[1-[3-(4-methoxyphenyl)propyl]piperidine-2-ylmethyl]dibenzo[b,e][1,4]oxazepine Hydrochloride
1.0 ml of 4 M hydrochloric acid/ethyl acetate was added to a solution of (R)-5,11-dihydro-5-[1-[3-(4-methoxyphenyl)propyl]piperidine-2-ylmethyl]dibenzo[b,e][1,4]oxazepine (196 mg) in dichloromethane (5 ml), and they were stirred for 2 hours. The solvent was evaporated under reduced pressure. The title compound was obtained in the form of a light yellow solid (180 mg, 85%).

reactant | hydrochloric acid ethyl acetate | 4 M, 1.0 ml | Cl.C(C)(=O)OCC
reactant | (R)-5,11-dihydro-5-[1-[3-(4-methoxyphenyl)propyl]piperidine-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | 196 mg | COC1=CC=C(C=C1)CCCN1[C@H](CCCC1)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C29H34N2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-5,11-Dihydro-5-[1-[3-(4-methoxyphenyl)propyl]piperidine-2-ylmethyl]dibenzo[b,e][1,4]oxazepine Hydrochloride | Cl.COC1=CC=C(C=C1)CCCN1[C@H](CCCC1)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C29H34N2O2.ClH/c1-32-26-17-15-23(16-18-26)9-8-20-30-19-7-6-11-25(30)21-31-27-12-3-2-10-24(27)22-33-29-14-5-4-13-28(29)31;/h2-5,10,12-18,25H,6-9,11,19-22H2,1H3;1H/t25-;/m1./s1
